US04284631
Ethyl 4-chloro-2-(2,4-dichlorobenzyloxyimino)-3-oxobutyrate (syn isomer, 37.3 g.), thiourea (8.1 g.), sodium acetate (8.7 g.), ethanol (100 ml.) and water (100 ml.) were treated in a similar manner to that of Example C - (3) to give ethyl 2-(2-aminothiazol-4-yl)-2-(2,4-dichlorobenzyloxyimino)acetate (syn isomer, 12.7 g.).

reactant | Ethyl 4-chloro-2-(2,4-dichlorobenzyloxyimino)-3-oxobutyrate | 37.3 g | ClCC(C(C(=O)OCC)=NOCC1=C(C=C(C=C1)Cl)Cl)=O | C13H12Cl3NO4
reactant | thiourea | 8.1 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 8.7 g | C(C)(=O)[O-].[Na+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | ethyl 2-(2-aminothiazol-4-yl)-2-(2,4-dichlorobenzyloxyimino)acetate | 12.7 g | NC=1SC=C(N1)C(C(=O)OCC)=NOCC1=C(C=C(C=C1)Cl)Cl | C14H13Cl2N3O3S
